* C:\Users\mulia\Documents\!!! SCU\SCU Courses\My SCU Courseworks\ELEN 115\Homework Circuit Diagrams\HW 6 #1a - Case #2.asc
R1 Vout Vin 5K
V2 Vin 0
V1 Vout 0 5
V3 0 N001 5
.dc V1 -2 2 0.1
.backanno
.end
